US08703768B2
6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (3-cyclopentylcarbamoyl-1-methyl-1H-pyrazol-4-yl)-amide
According to the general method described in step 5 of example 27, reaction of cyclopentylamine with 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester provided the title compound (19%) as amorphous yellow solid.

reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
reactant | 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C | C19H19N7O3
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (3-cyclopentylcarbamoyl-1-methyl-1H-pyrazol-4-yl)-amide | 19% | C1(CCCC1)NC(=O)C1=NN(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C | C23H26N8O2
